US20010044452A1
2-Amino-1-[5-(4-Chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone hydrochloride
6.18 g (0.0186 mole) 2-[(Bis-formyl)amino]-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone was stirred 3 days in 5% HCl/EtOH. A 0.5 mL portion of conc. HCL was added and the reaction stirred for two more days. The solid was collected by filtration. The solid was stirred in refluxing methanol and the undissolved solid collected by filtration and discarded. The filtrate was cooled to room temperature and diethyl ether was added. The solid was collected. It was twice treated with boiling methanol to give pure product: mp 290° C. (decomp.); mass spectrum (CH4-Cl) m/z=277 (M+1); NMR (Me2SO-d6) d 8.2 (br s, 4 H); 7.85 (d, 2 H); 7.6 (d, 2 H); 7.2 (s,1 H); 4.3 (s, 2 H); 4.0 (s 3 H). Anal Calcd for C14H13CIN2O2-HCl: C, 53.69; H, 4.51; N. 8.94. Found: C, 53.91; H, 4.4.1; N, 8.76.

reactant | 2-[(Bis-formyl)amino]-1-[5-(4-chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone | 0.0186 mole, 6.18 g | C(=O)N(CC(=O)C1=CN(C(=C1)C(C1=CC=C(C=C1)Cl)=O)C)C=O | C16H13ClN2O4
solvent | HCl EtOH | Cl.CCO
product | 2-Amino-1-[5-(4-Chlorobenzoyl)-1-methyl-1H-pyrrol-3-yl]-ethanone hydrochloride | Cl.NCC(=O)C1=CN(C(=C1)C(C1=CC=C(C=C1)Cl)=O)C | InChI=1S/C14H13ClN2O2.ClH/c1-17-8-10(13(18)7-16)6-12(17)14(19)9-2-4-11(15)5-3-9;/h2-6,8H,7,16H2,1H3;1H
